US07494996B2
To a solution of 1-(2,2,2-trifluoroethyl)-3-(3,5-dichlorophenyl)-4,5-dihydro-1,2,4-triazin-6-one (110 mg, 0.34 mmol) in 5 mL tetrahydrofuran at was added sodium hydride (30 mg, 0.67 mmol). After the reaction stirred 5 min, the allyl chloroformate (0.07 mL, 0.67 mmol) was added dropwise. After the reaction was heated at reflux for 6 h, it was quenched with water and diluted with ethyl acetate. The two layers were separated and the aqueous phase was extracted with ethyl acetate (3×5 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. Flash column chromatography (100% hexanes-10% ethyl acetate/hexanes) afforded the acylated product 1-(2,2,2-trifluoroethyl)-3-(3,5-dichlorophenyl)-4-allyloxycarbonyl-4,5-dihydro-1,2,4-triazin-6-one (130 mg, 93%) as a yellow oil in 100% purity by gas chromatography (GC).

reactant | 1-(2,2,2-trifluoroethyl)-3-(3,5-dichlorophenyl)-4,5-dihydro-1,2,4-triazin-6-one | 0.34 mmol, 110 mg | FC(CN1N=C(NCC1=O)C1=CC(=CC(=C1)Cl)Cl)(F)F | C11H8Cl2F3N3O
reactant | sodium hydride | 0.67 mmol, 30 mg | [H-].[Na+]
reactant | allyl chloroformate | 0.67 mmol, 0.07 mL | ClC(=O)OCC=C | C4H5ClO2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(2,2,2-trifluoroethyl)-3-(3,5-dichlorophenyl)-4-allyloxycarbonyl-4,5-dihydro-1,2,4-triazin-6-one | 130 mg, 93% | FC(CN1N=C(N(CC1=O)C(=O)OCC=C)C1=CC(=CC(=C1)Cl)Cl)(F)F | C15H12Cl2F3N3O3
